US05308854
Step C: Preparation of 3-{[(benzoxazol-2-yl)amino]-methyl}-5-ethyl-6-methyl-2-(1H)-pyridinone
A mixture of 2-methoxy-3-{[(benzoxazol-2-yl)amino]methyl}-5-ethyl-6-methylpyridine (80 mg, 0.269 mmol) and pyridine hydrochloride (335 mg, 2.9 mmol), under a nitrogen atmosphere, was warmed in an oil bath pre-heated to 150° C. for 5 minutes. This solidified mixture was cooled, diluted with water and the crude precipitated product collected by filtration. This material was dissolved in methylene chloride, filtered through a charcoal pad and then diluted with hexane. As the methylene chloride was boiled off the product crystallized out to give 40 mg (53%), m.p. 211°-213° C.

reactant | 2-methoxy-3-{[(benzoxazol-2-yl)amino]methyl}-5-ethyl-6-methylpyridine | 0.269 mmol, 80 mg | COC1=NC(=C(C=C1CNC=1OC2=C(N1)C=CC=C2)CC)C | C17H19N3O2
reactant | pyridine hydrochloride | 2.9 mmol, 335 mg | Cl.N1=CC=CC=C1
solvent | water | O | H2O
product | 3-{[(benzoxazol-2-yl)amino]-methyl}-5-ethyl-6-methyl-2-(1H)-pyridinone | O1C(=NC2=C1C=CC=C2)NCC=2C(NC(=C(C2)CC)C)=O | C16H17N3O2
